US07851473B2
tert-Butyl [2-({[1-(5-{4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazin-1-yl}-1,2,4-thiadiazol-3-yl)piperidin-4-yl]carbonyl}amino)ethyl]carbamate
A solution of 1-(5-{4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazin-1-yl}-1,2,4-thiadiazol-3-yl)piperidine-4-carboxylic acid (100 mg, 0.219 mmol), 1-hydroxybenzotriazole (29.6 mg, 0.219 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (84.0 mg, 0.438 mmol) and tert-butyl N-(2-aminoethyl)carbamate (35.0 mg, 0.219 mmol) in N,N-dimethylformamide (2 ml) was stirred at room temperature for 12 hours. The reaction mixture was poured to water, and a solid was separated by filtration, which was recrystallized from a mixed solvent of tetrahydrofuran, ethyl acetate and hexane to give 111 mg (84.7%) of the desired product as a solid.

reactant | 1-(5-{4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazin-1-yl}-1,2,4-thiadiazol-3-yl)piperidine-4-carboxylic acid | 0.219 mmol, 100 mg | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)N2CCC(CC2)C(=O)O | C20H23N7O4S
reactant | 1-hydroxybenzotriazole | 0.219 mmol, 29.6 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.438 mmol, 84.0 mg | Cl.CN(CCCN=C=NCC)C
reactant | tert-butyl N-(2-aminoethyl)carbamate | 0.219 mmol, 35.0 mg | NCCNC(OC(C)(C)C)=O | C7H16N2O2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-Butyl [2-({[1-(5-{4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazin-1-yl}-1,2,4-thiadiazol-3-yl)piperidin-4-yl]carbonyl}amino)ethyl]carbamate | 111 mg, 84.7% | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)N2CCC(CC2)C(=O)NCCNC(OC(C)(C)C)=O | C27H37N9O5S
